US04073900
A: 17-Acetoxy-9-bromo-11β-fluoro-4-pregnene-3,20-dione
At -78° C., 20 ml. of hydrogen fluoride is combined with 8 ml. of dimethylformamide, and 6 g. of 17-acetoxy-4,9(11)-pregnadiene-3,20-dione (J. Org. Chem. 26 1961!: 866) and 4 g. of N-bromosuccinimide are added to the reaction mixture. The latter is allowed to stand for 3 hours at -30° C. and then introduced into a mixture of water, ice, and a 25% ammonia solution. The precipitate is filtered off, washed with water, taken up in ethyl acetate, and dried over sodium sulfate. After chromatography of the crude product on silica gel with 19-21.6% acetone/hexane, the yield is 3.0 g. of 17-acetoxy- 9-bromo-11β -fluoro-4-pregnene-3,20-dione; m.p. 180°-182° C. (under decomposition).

reactant | hydrogen fluoride | F | FH
reactant | 17-acetoxy-4,9(11)-pregnadiene-3,20-dione | C(C)(=O)O[C@]1(C(C)=O)CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)C3=CC[C@]12C)=O | C23H30O4
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | ammonia | N | H3N
solvent | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 17-Acetoxy-9-bromo-11β-fluoro-4-pregnene-3,20-dione | C(C)(=O)O[C@]1(C(C)=O)CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@]3([C@H](C[C@]12C)F)Br)=O | C23H30BrFO4
